US06858651B2
To 500 mg (10.5 mmol) trans-N-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide in 6 ml CH2Cl2 were added 0.2 ml (1.6 mmol) DAST at −78° C. After 3.5 h at that temperature additional 0.2 ml (1.6 mmol) DAST were added and the mixture was slowly warmed to RT over night. The solution was added to a cooled aqueous solution of Na2CO3 and extracted with EtOAc. The organic phase was washed with brine and dried over Na2SO4. Column chromatography CH2Cl2/MeOH 98:2 yielded 125.4 mg (25%) trans-N-(4-{5-[Ethyl-(2-fluoro-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide as brown oil, MS: 481 (MH+).

reactant | trans-N-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | 10.5 mmol, 500 mg | C(C)N(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CCO | C23H37F3N2O3S
reactant | DAST | 1.6 mmol, 0.2 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | DAST | 1.6 mmol, 0.2 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | trans-N-(4-{5-[Ethyl-(2-fluoro-ethyl)-amino]-pentyl}-cyclohexyl)-N-methyl-4-trifluoromethyl-benzenesulfonamide | 125.4 mg, 25% | C(C)N(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CCF | C23H36F4N2O2S
